US07361659B2
5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid
A mixture of ethyl 5-(4-chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (0.95 g, 2.8 mmol) and 2 N NaOH solution (5.6 mL) in MeOH (35 mL) was heated to 80° C. for 0.5 h. The mixture was cooled, diluted with water (150 mL) and washed with diethyl ether. The aqueous layer was acidified by the addition of 3N HCl to pH 2. The precipitate formed was isolated by filtration, washed with water, and dried to give the title compound (0.75 g, 86%). Off-white solid. MS (ISN) 312.3 [(M−H)−]; mp 256° C.

reactant | ethyl 5-(4-chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 2.8 mmol, 0.95 g | C(C)C1=NN2C(N=C(C=C2C2CC2)C2=CC=C(C=C2)Cl)=C1C(=O)O | C18H16ClN3O2
reactant | NaOH | 2 N, 5.6 mL | [OH-].[Na+]
solvent | MeOH | 35 mL | CO | CH4O
solvent | water | 150 mL | O | H2O
product | 5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.75 g, 86% | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C(=O)O | C16H12ClN3O2
